US05648578
A stainless steel autoclave is charged with 50% sodium hydroxide (57 g, 0.7 mole), 80 percent tri-n-butylmethylammonium chloride (1 g, 0.0034 mole), and trimethylcyclopentadiene (mixed isomers, 32.4 g, 0.3 mole). Methyl chloride (15.7 g, 0.31 mole) is added at 60 psi and 25°-30° C. After reaction completion, the organic product phase is separated from the lower aqueous phase containing excess base and sodium chloride slurry. The mixture of crude tetramethylcyclopentadienes is subject to pyrolysis as described in Example 1C to obtain 1,2,3,4-tetramethylcyclopentadiene.

reactant | sodium hydroxide | 0.7 mole, 57 g | [OH-].[Na+]
reactant | trimethylcyclopentadiene | 0.3 mole, 32.4 g | CC=1C(=C(CC1)C)C | C8H12
reactant | Methyl chloride | 0.31 mole, 15.7 g | CCl | CH3Cl
catalyst | tri-n-butylmethylammonium chloride | 0.0034 mole, 1 g | [Cl-].C(CCC)[N+](C)(CCCC)CCCC
product | 1,2,3,4-tetramethylcyclopentadiene | CC1=C(C(=C(C1)C)C)C | C9H14
